US07456164B2
4-[3-{4-[4-[(4-methylpiperazin-1-yl)carbonyl]tetrahydro-2H-pyran-4-yl}phenoxy)propyl]-1,4-oxazepane
4-(3-{4-[4-(piperazin-1-ylcarbonyl)tetrahydro-2H-pyran-4-yl]phenoxy}propyl)-1,4-oxazepane (45 mg, 0.1 mmol) was dissolved in DCM (3 ml), to which was added formaldehyde (37% w/w in H2O, 12 mg, 0.12 mmol) and acetic acid (8 mg, 0.12 mmol) and was stirred at room temperature for 30 minutes before adding STAB (25 mg, 0.12 mmol). The solution was allowed to stir for a further 45 minutes before washing the solution with saturated sodium bicarbonate (10 ml), followed by brine (10 ml). The organic layer was dried over Na2SO4 and concentrated in vacuo to afford the title compound as a white solid (25 mg, 56%). 1H NMR (400 MHz, d6-DMSO) δ 1.76-2.13 (m, 11H), 2.55-2.78 (m, 6H), 3.16-3.39 (m, 8H), 3.50-3.62 (m, 4H), 3.63 (m, 2H), 3.72 (M, 2H), 3.99 (t, 2H), 6.92 (d, 2H), 7.12 (d, 2H). LRMS ESI+ m/z 446 [MH]+.

reactant | 4-(3-{4-[4-(piperazin-1-ylcarbonyl)tetrahydro-2H-pyran-4-yl]phenoxy}propyl)-1,4-oxazepane | 0.1 mmol, 45 mg | N1(CCNCC1)C(=O)C1(CCOCC1)C1=CC=C(OCCCN2CCOCCC2)C=C1 | C24H37N3O4
reactant | formaldehyde | 0.12 mmol, 12 mg | C=O | CH2O
reactant | acetic acid | 0.12 mmol, 8 mg | C(C)(=O)O | C2H4O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-{4-[4-[(4-methylpiperazin-1-yl)carbonyl]tetrahydro-2H-pyran-4-yl}phenoxy)propyl]-1,4-oxazepane | 25 mg, 56% | CN1CCN(CC1)C(=O)C1(CCOCC1)C1=CC=C(OCCCN2CCOCCC2)C=C1 | C25H39N3O4
